US04174318
(3R,4R)-3-Phenylacetamido-4-ethylthioazetidin-2-one
A solution of bis-[(3R,4R)-3-phenylacetamidoazetidin-2-on-4-yl]-disulphide (0.5 g., 1.06 m.mole) and ethyl iodide (5 ml., 62 m.mole) in N,N-dimethylformamide (10 ml.) at 21° was treated with tri-n-butylphosphine (0.8 ml., 3.15 m.mole). After 10 minutes the solution was diluted with ethyl acetate (50 ml.), washed with water, and evaporated. The resulting gum was chromatographed on silica gel with 2% ethanol in chloroform as solvent and the title compound obtained as a colourless crystalline solid (160 mg., 28.5%), identical in all respects with the material described in Example 4.

reactant | bis-[(3R,4R)-3-phenylacetamidoazetidin-2-on-4-yl]-disulphide | 0.5 g | C1(=CC=CC=C1)CC(=O)N[C@@H]1C(N[C@@H]1SS[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O)=O | C22H22N4O4S2
reactant | ethyl iodide | 5 ml | C(C)I | C2H5I
reactant | tri-n-butylphosphine | 0.8 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (3R,4R)-3-Phenylacetamido-4-ethylthioazetidin-2-one | C1(=CC=CC=C1)CC(=O)N[C@@H]1C(N[C@@H]1SCC)=O | C13H16N2O2S
